US04910200
z-3-(3,4-Dimethoxyphenyl)-3-[4-(1,3-dioxolan-2-yl)-phenyl]acrylic acid morpholide
This compound was obtained in analogy to the preceding Examples from 3,4-dimethoxycinnamic acid morpholide and 2-(4-bromophenyl)-1,3-dioxolane.

reactant | 3,4-dimethoxycinnamic acid morpholide | COC=1C=C(C=CC(=O)N2CCOCC2)C=CC1OC | C15H19NO4
reactant | 2-(4-bromophenyl)-1,3-dioxolane | BrC1=CC=C(C=C1)C1OCCO1 | C9H9BrO2
product | z-3-(3,4-Dimethoxyphenyl)-3-[4-(1,3-dioxolan-2-yl)-phenyl]acrylic acid morpholide | COC=1C=C(C=CC1OC)\C(=C/C(=O)N1CCOCC1)\C1=CC=C(C=C1)C1OCCO1 | C24H27NO6
